US07141564B2
(a) 4-Bromo-6,8-difluoro-quinoline
This was prepared from 4-hydroxy-6,8-difluoro-quinoline by heating with phosphorus tribromide in dimethylformamide.

reactant | 4-hydroxy-6,8-difluoro-quinoline | OC1=CC=NC2=C(C=C(C=C12)F)F | C9H5F2NO
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Bromo-6,8-difluoro-quinoline | BrC1=CC=NC2=C(C=C(C=C12)F)F | C9H4BrF2N
